US07964724B2
2-(3-Ethoxy-phenyl)-2-methyl-propionitrile (2.96 grams, 15.65 mmol) was dissolved in a freshly prepared acetic acid solution of iodine monochloride (20 mL of a 1.54 M iodine monochloride solution in acetic acid, 30.8 mmol). The reaction was slightly exothermic. The reaction mixture was allowed to stand at room temperature for 3 d. The reaction mixture was concentrated, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with 10% sodium carbonate (1×), brine (1×), and dried (anhydrous magnesium sulfate). The solids were filtered off, and the filtrate was concentrated to dryness. The residue was purified by flash chromatography 110 g of silica gel, eluting with a gradient of ethyl acetate in hexanes) to give 2-(3-ethoxy-4-iodo-phenyl)-2-methyl-propionitrile (2.53 g, 51%). LR-MS: 316.21 [(M+H)+]

reactant | 2-(3-Ethoxy-phenyl)-2-methyl-propionitrile | 15.65 mmol, 2.96 grams | C(C)OC=1C=C(C=CC1)C(C#N)(C)C | C12H15NO
reactant | iodine monochloride | ICl | ClI
reactant | iodine monochloride | 1.54 M | ICl | ClI
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-ethoxy-4-iodo-phenyl)-2-methyl-propionitrile | 2.53 g, 51% | C(C)OC=1C=C(C=CC1I)C(C#N)(C)C | C12H14INO
